US04234594
5-Amino-1-(4-fluorophenyl)-pyrazole hydrochloride
4-Fluorophenylhydrazine was converted to this product by the method described in Farmaco 22, 68, 1967. mp of HCl salt, 201°-210°

reactant | 4-Fluorophenylhydrazine | FC1=CC=C(C=C1)NN | C6H7FN2
reactant | HCl | Cl | ClH
product | 5-Amino-1-(4-fluorophenyl)-pyrazole hydrochloride | Cl.NC1=CC=NN1C1=CC=C(C=C1)F | InChI=1S/C9H8FN3.ClH/c10-7-1-3-8(4-2-7)13-9(11)5-6-12-13;/h1-6H,11H2;1H
